US04931436
5,11-Dihydro-11-[[3-[2-(methylethylethylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-(methylethylethylamino)ethyl]piperidine in a yield of 43% of theory. Colourless crystals, m.p. 228°-230° C., Rf 0.39 (Merck DC ready made TLC plates, silica gel 60 F254 ; eluant: dichloromethane/methanol/conc. ammonia 90/10/1, v/v/v).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-(methylethylethylamino)ethyl]piperidine | CC(C)N(CCC1CNCCC1)CC | C12H26N2
solvent | dichloromethane methanol | ClCCl.CO
product | 5,11-Dihydro-11-[[3-[2-(methylethylethylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride | yield of 43% | Cl.CC(C)N(CCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | InChI=1S/C25H33N5O2.ClH/c1-4-28(18(2)3)16-13-19-9-8-15-29(17-19)25(32)30-22-12-6-5-10-20(22)24(31)27-21-11-7-14-26-23(21)30;/h5-7,10-12,14,18-19H,4,8-9,13,15-17H2,1-3H3,(H,27,31);1H
